US08049013B2
2-(4-Chloro-phenyl)-5-[4-(1-isopropyl-azetidin-3-yloxy)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt
Dissolve 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one (1.0 g, 2.26 mmol) and acetone (250 μL, 3.39 mmol) in dry 1,2-dichloroethane. Add sodium triacetoxyborohydride (1.0 g, 4.53 mmol) and stir overnight at room temperature. Add 1 N NaOH solution to the reaction mixture and extract with CH2Cl2 (2×25 mL). Combine the organic portions and wash with water (2×25 mL). Dry the organic layer with Na2SO4, then filter, and concentrate in vacuo. Triturate the crude yellow solid with Et2O and filter. Wash the solid with Et2O several times and re-dissolve in CHCl3. Add 1 N HCl/Et2O solution (1.5 mL) and remove the solvent in vacuo to give 630 mg (53%) of the title compound. ES/MS m/z (35Cl) 484.2 [M+1]+.

reactant | 5-[4-(azetidin-3-yloxy)-3-methoxy-phenyl]-2-(4-chloro-phenyl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 2.26 mmol, 1.0 g | N1CC(C1)OC1=C(C=C(C=C1)N1C(C2=C(CC1)N=C(S2)C2=CC=C(C=C2)Cl)=O)OC | C22H20ClN3O3S
reactant | acetone | 3.39 mmol, 250 μL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 4.53 mmol, 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(4-Chloro-phenyl)-5-[4-(1-isopropyl-azetidin-3-yloxy)-3-methoxy-phenyl]-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one, hydrochloride salt | 630 mg, 53% | Cl.ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C1=CC(=C(C=C1)OC1CN(C1)C(C)C)OC)=O | InChI=1S/C25H26ClN3O3S.ClH/c1-15(2)28-13-19(14-28)32-21-9-8-18(12-22(21)31-3)29-11-10-20-23(25(29)30)33-24(27-20)16-4-6-17(26)7-5-16;/h4-9,12,15,19H,10-11,13-14H2,1-3H3;1H
